US07151118B2
Methyl 5′-amino-2′-methyl-1,1′-biphenyl-4-carboxylate 3-Bromo-4-methylaniline (744 mg, 4.0 mmol), (4-methoxycarbonylphenyl)boronic acid (864 mg, 4.8 mmol), tetrakis(triphenylphosphine)palladium (100 mg, 0.087 mmol) and caesium carbonate (2.4 g, 7.37 mmol) were mixed in DME (30 ml) and heated at 90° C. for 20 h. The reaction was absorbed onto silica applied to a silica SPE (10 g) and eluted with ethyl acetate/cyclohexane (0–100% ethyl acetate). The solvent was evaporated from the product fractions under vacuum to give methyl 5′-amino-2′-methyl-1,1′-biphenyl-4-carboxylate (500 mg, 43%). NMR; δH CDCl3 8.07,(2H, d), 7.38,(2H, d), 7.07,(1H, d), 6.67,(1H, dd), 6.60,(1H, d), 3.94,(3H, s), 2.14,(3H, s).

reactant | Methyl 5′-amino-2′-methyl-1,1′-biphenyl-4-carboxylate 3-Bromo-4-methylaniline | 4.0 mmol, 744 mg | BrC=1C=C(N)C=CC1C.NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)OC)C
reactant | (4-methoxycarbonylphenyl)boronic acid | 4.8 mmol, 864 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | caesium carbonate | 7.37 mmol, 2.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME | 30 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.087 mmol, 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 5′-amino-2′-methyl-1,1′-biphenyl-4-carboxylate | 500 mg, 43% | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)OC)C | C15H15NO2
